US06642389B2
In analogy to the procedure described in example 120 f], 2-ethoxy-3-(4-hydroxy-benzofuran-7-yl)-propionic acid methyl ester (example 120 e]) was reacted with 2-(4-tert-butyl-phenyl)-4-chloromethyl-5-methyl-oxazole in the presence of potassium carbonate and potassium iodide to yield [rac]-3-{4-[2-(4-tert-butyl-phenyl)-5-methyl-oxazol-4-ylmethoxy]-benzofuran-7-yl}-2-ethoxy-propionic acid methyl ester, which was further saponified in analogy to the procedure described in example 120 f] to yield [rac]-3-{4-[2-(4-tert-butyl-phenyl)-5-methyl-oxazol-4-ylmethoxy]-benzofuran-7-yl}-2-ethoxy-propionic acid as white solid.

reactant | 2-ethoxy-3-(4-hydroxy-benzofuran-7-yl)-propionic acid methyl ester | COC(C(CC1=CC=C(C=2C=COC21)O)OCC)=O | C14H16O5
reactant | 2-(4-tert-butyl-phenyl)-4-chloromethyl-5-methyl-oxazole | C(C)(C)(C)C1=CC=C(C=C1)C=1OC(=C(N1)CCl)C | C15H18ClNO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
product | [rac]-3-{4-[2-(4-tert-butyl-phenyl)-5-methyl-oxazol-4-ylmethoxy]-benzofuran-7-yl}-2-ethoxy-propionic acid methyl ester | COC(C(CC1=CC=C(C=2C=COC21)OCC=2N=C(OC2C)C2=CC=C(C=C2)C(C)(C)C)OCC)=O | C29H33NO6
